US06852731B2
The optical purity is upgraded as follows: Carbonyldiimidazole (4.26 g, 1.1 equiv., 26.2 mmol) is dissolved in dichloromethane (80 mL). To this solution is slowly added, via cannula addition, (1R)-2-(methylamino)-1-pyrazin-2-ylethanol (3.66 g, 23.9 mmol) dissolved in dichloromethane (60 mL). The reaction is stirred at room temperature for 16 h. The solvent in vacuo and purification is accomplished by silica gel column chromatography (98:2 dichloromethane-methanol, sample and silica gel loaded in dichloromethane). Any uncyclized carbamate collected off the column is dissolved in methanol, to which is added a catalytic amount of 1 M NaOH and the solution is refluxed until completely cyclized. This freshly cyclized material is then purified by column chromatography as above. The combined pure oxazolidinone fractions are then concentrated in vacuo producing an 88% yield of (5R)-3-methyl-5-pyrazin-2-yl-1,3-oxazolidin-2-one (3.77 g, 21.0 mmol) as a white solid. This material is upgraded by chiral preparative HPLC to give material with >95% ee. MP: 113.5-114.1°; 1H NMR (400 MHz, CDCl3) δ 8.84, 8.62, 8.58, 5.62, 4.02, 3.80, 2.94; 13C NMR (100 MHz, CDCl3) δ 157.4, 153.2, 144.8, 144.1, 142.7, 72.2, 51.6, 31.1. MS (CI) m/z (rel. intensity) 180 (MH+, 12), 197 (45), 180 (12), 138 (35), 137 (17), 136 (99), 122 (11), 107 (24), 96 (14), 95 (10), 58 (11); HRMS (FAB) Found 180.0781; Specific Rotation [α]D25 +20 (c 0.95, methylene chloride); Anal. Found: C, 53.38; H, 5.03; N, 23.35.

reactant | Carbonyldiimidazole | 26.2 mmol, 4.26 g, 1.1 equiv. | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | (1R)-2-(methylamino)-1-pyrazin-2-ylethanol | 23.9 mmol, 3.66 g | CNC[C@@H](O)C1=NC=CN=C1 | C7H11N3O
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
product | (5R)-3-methyl-5-pyrazin-2-yl-1,3-oxazolidin-2-one | 21.0 mmol, 3.77 g, 88% yield | CN1C(O[C@H](C1)C1=NC=CN=C1)=O | C8H9N3O2
